US06683095B2
Synthesis of (E)-3-[4-(benzyloxy)-3-nitrophenyl]-1-(2-hydroxy-5-methylphenyl)-2-propen-1-one
2-Hydroxy-5-methylacetophenone (200 mg, 1.33 mol) and 4-benzyloxy-3-nitrobenzaldehyde (350 mg, 1.36 mmol) were reacted according to the same procedure as Preparation 1 to give 170 mg (Yield 29%) of the title compound.

reactant | 2-Hydroxy-5-methylacetophenone | 1.33 mol, 200 mg | CC1=CC(=C(C=C1)O)C(=O)C | C9H10O2
reactant | 4-benzyloxy-3-nitrobenzaldehyde | 1.36 mmol, 350 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C14H11NO4
product | (E)-3-[4-(benzyloxy)-3-nitrophenyl]-1-(2-hydroxy-5-methylphenyl)-2-propen-1-one | 170 mg, Yield 29% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)/C=C/C(=O)C1=C(C=CC(=C1)C)O)[N+](=O)[O-] | C23H19NO5
